US05359066
Methylene chloride (10 ml) solution of ethyl 6,7,8-trifluoro-1-methylamino-1,4-dihydro-4-oxoquinoline-3-carboxylate (1.0 g) and tert-butyl 2-tert-butoxycarbonylacrylate (1.52 g) was cooled in an ice bath in nitrogen atmosphere, and titanium tetrachloride (632.4 mg) was dropwise added thereto. After 30 minutes, this was diluted with ethyl acetate (100 ml) and then with water (100 ml). The organic layer was separated out, washed with water (2×50 ml), dried over magnesium sulfate and concentrated under reduced pressure to obtain an yellow syrup product. The syrup product was subjected to column chromatography with silica gel and eluted with a mixed solvent of methylene chloride/ethyl acetate (10/1) to obtain ethyl 6,7,8-trifluoro-1-[N-methyl-N-{2,2-bis(tert-butoxycarbonyl)ethyl}amino]-1,4-dihydro-4-oxoquinoline-3-carboxylate (988 mg), as a white solid.

reactant | Methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
reactant | ethyl 6,7,8-trifluoro-1-methylamino-1,4-dihydro-4-oxoquinoline-3-carboxylate | 1.0 g | FC=1C=C2C(C(=CN(C2=C(C1F)F)NC)C(=O)OCC)=O | C13H11F3N2O3
reactant | tert-butyl 2-tert-butoxycarbonylacrylate | 1.52 g | C(C)(C)(C)OC(=O)C(C(=O)OC(C)(C)C)=C | C12H20O4
reactant | water | 100 ml | O | H2O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | titanium tetrachloride | 632.4 mg | [Ti](Cl)(Cl)(Cl)Cl
product | ethyl 6,7,8-trifluoro-1-[N-methyl-N-{2,2-bis(tert-butoxycarbonyl)ethyl}amino]-1,4-dihydro-4-oxoquinoline-3-carboxylate | 988 mg | FC=1C=C2C(C(=CN(C2=C(C1F)F)N(CC(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C)C(=O)OCC)=O | C25H31F3N2O7
